US08580762B2
Step 5. N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carboxamide
K2CO3 (381 mg, 2.76 mmol), followed by SEM-Cl (430 μl, 2.43 mmol) was added to a solution of the N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carboxamide (754 mg, 2.21 mmol) in DMF (10 ml) at RT and stirred overnight. The reaction was monitored by LCMS. The reaction mixture was diluted with water (3 ml), brine (30 ml) and then extracted with EtOAc (2×50 ml). This was dried over Na2SO4, filtered and evaporated to give a clear orange oil. Purification by silica gel column chromatography, eluting with EtOAc:heptanes (1:1-1) gave the desired products as a beige oils as a single regioisomer (217 mg, 21%); MS (ESI+) for C22H32F3N3O3Si m/z 472.55 [M+H]+; HPLC purity 99% (ret. time, 2.37 min); 1H NMR (250 MHz, CHLOROFORM-d) δH ppm −0.31-0.22 (9 H, m), 0.83-1.00 (2 H, m), 2.03-2.25 (2 H, m), 2.30-2.74 (2 H, m), 2.85-3.14 (3 H, m), 3.18 (3 H, s), 3.32-3.60 (3 H, m), 3.61-3.72 (3 H, m), 5.52 (2 H, s), 7.51 (1 H, dd, J=8.38, 1.22 Hz), 7.70 (1 H, s), 7.79 (1 H, d, J=8.53 Hz) and as a mixture of regioisomers (280 mg, 27%); C22H32F3N3O3Si m/z 472.55 [M+H]+; HPLC purity 72% & 21% (ret. time, 2.39 & 2.36 min); 1H NMR (250 MHz, CHLOROFORM-d) δ ppm −0.08-0.01 (9 H, m), 0.81-0.99 (2 H, m), 1.94-2.24 (2 H, m), 2.38-2.74 (2 H, m), 2.90-3.14 (3 H, m), 3.14-3.22 (3 H, m), 3.33-3.63 (3 H, m), 3.63-3.70 (3 H, m), 5.40-5.64 (2 H, m), 7.40-7.74 (2 H, m), 7.75-8.14 (1 H, m).

reactant | K2CO3 | 2.76 mmol, 381 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | SEM-Cl | 2.43 mmol, 430 μl | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carboxamide | 2.21 mmol, 754 mg | CON(C(=O)C1CC(C1)CC1=NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C16H18F3N3O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | brine | 30 ml | [Cl-].[Na+].O
product | N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carboxamide | CON(C(=O)C1CC(C1)CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(F)(F)F)C | C22H32F3N3O3Si
